US06589970B2
Step 6: 3-Methyl-benzofuran-2-carboxylic acid [5-bromo-6-(1H-tetrazol-5-ylmethoxy)-naphthalen-2-ylmethyl]-amide.
A mixture of 3-methyl-benzofuran-2-carboxylic acid (5-bromo-6-cyanomethoxy-naphthalen-2-ylmethyl)-amide (1.14 g, 2.54 mmol), prepared in the previous step, sodium azide (492 mg, 7.57 mmol) and ammonium chloride (406 mg, 7.59 mmol) in 50 mL of DMF was stirred under nitrogen at 100° C. for 5 h. By TLC starting material remained. An additional 494 mg (7.60 mmol) of sodium azide was added and the stirring continued at 100° C. for 2 h. The reaction was diluted with water, made basic by the addition of 1 N NaOH and extracted three times with ethyl acetate. The aqueous layer was acidified with 1 N HCl and the solid that precipitated was collected by filtration and dried under reduced pressure to give the title compound (987 mg, 79%) as a light brown solid, mp 212-215° C.

reactant | 3-methyl-benzofuran-2-carboxylic acid (5-bromo-6-cyanomethoxy-naphthalen-2-ylmethyl)-amide | 2.54 mmol, 1.14 g | BrC1=C2C=CC(=CC2=CC=C1OCC#N)CNC(=O)C=1OC2=C(C1C)C=CC=C2 | C23H17BrN2O3
reactant | sodium azide | 7.57 mmol, 492 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 7.59 mmol, 406 mg | [Cl-].[NH4+]
reactant | sodium azide | 7.60 mmol, 494 mg | [N-]=[N+]=[N-].[Na+]
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-Methyl-benzofuran-2-carboxylic acid [5-bromo-6-(1H-tetrazol-5-ylmethoxy)-naphthalen-2-ylmethyl]-amide | 987 mg, 79% | BrC1=C2C=CC(=CC2=CC=C1OCC1=NN=NN1)CNC(=O)C=1OC2=C(C1C)C=CC=C2 | C23H18BrN5O3
